Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
"My uterus is still falling out".
 
Major Surgical or Invasive Procedure:
robotic assisted laparoscopic supracervical hysterectomy and 
right salpingo-oophorectomy, sacrocervicopexy, cystoscopy

 
History of Present Illness:
 Mrs. ___ is a ___ yo Gravida 3 Para 2 who presents
today in the office for a consultation requested by Dr. 
___ organ prolapse. Her symptoms have been present for
approximately ___ years, and had been seen by Dr. ___ with pessary
management in ___. Her pessary fell out, and she has not used 
it
since.

She reports denies incontinence. She voids ___ times per day and
1 time per night. She uses 1 pads per day. She denies urgency,
she denies dysuria and reports bladder emptying with normal 
flow.
She denies any hematuria, UTI's, kidney stones or 
pyelonephritis.
Mrs. ___ also reports vaginal pressure and has palpable
prolapse with prolonged standing. She sometimes needs to reduce
her bladder to void. The patient previously had SUI prior to her
prolapse worsening.

She also denies constipation and denies to "splinting" with 
BM's.
She is not sexually active. She denies vaginal dryness.

She saw Dr. ___ in ___, and was found to have Stage 3 uterine
prolapse and stage 2 cystocele. She failed conservative
management with a pessary given "it kept on falling out". She
also had a UDS at the time which did not show SUI with normal
sensation, capacity, compliance or detrusor overactivity.

She is otherwise without any other significant complaints.

 
Past Medical History:
PAST MEDICAL HISTORY:
  1. T2DM
  2. Osteopenia
  3. HLD
  
PAST SURGICAL HISTORY
  1. HSC-PPY
  2. Open MMY-LSO in ___

PAST OB HISTORY
G3P___
Vaginal: denies, largest ___

PAST GYN HISTORY
She is postmenopausal since age ___, had some post-menopausal
bleeding from polyp which was removed, no further bleeding

She denies STDs
She denies an abnormal Pap test and her last one was in ___
She denies an abnormal Mammogram and her last one was in ___
Her last colonoscopy was in ___

 
Social History:
___
Family History:
Her family history is unremarkable for Breast, Ovarian or Colon
cancer.
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing robotic assisted laparoscopic supracervical 
hysterectomy and right salpingo-oophorectomy, sacrocervicopexy, 
cystoscopy. Please see the operative report for full details.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and toradol.
On post-operative day 1, she underwent a successful trial of 
void. She then contiued to void spontaneously. Her diet was 
advanced without difficulty and she was transitioned to PO 
oxycodone/ibuprofen/acetaminophen.
By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO TID 
2. Atorvastatin 40 mg PO QPM 

 
Discharge Medications:
1. Atorvastatin 40 mg PO QPM 
2. MetFORMIN (Glucophage) 500 mg PO TID 
3. Acetaminophen 650 mg PO TID 
Do not exceed 4000 mg in 24 hours 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 8 hours Disp 
#*40 Tablet Refills:*0
4. Ibuprofen 400 mg PO Q6H:PRN Pain 
Take with food 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every 6 hours Disp 
#*40 Tablet Refills:*0
5. Docusate Sodium 100 mg PO BID 
take with oxycodone to prevent severe constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice per day 
Disp #*40 Capsule Refills:*0
6. OxycoDONE (Immediate Release)  2.5-5 mg PO Q4H:PRN pain 
do not drive or drink alcohol while taking this medication 
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours Disp 
#*40 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pelvic organ prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
*  Nothing in the vagina (no tampons, no douching, no sex) for 3 
months or until instructed by Dr. ___.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___